US05457124
Preparation of 2-(3-Phenylpropenylidene)-1,3-cyclohexanedione.
A solution of 11.2 g (0.1 mol) of 1,3-cyclohexanedione in 110 mL of ethanol was stirred at room temperature while 1 mL of piperidine was added followed by the dropwise addition of 13 mL (0.103 mol) of trans-cinnamaldehyde over a 2 min period. The resulting mixture was stirred at room temperature for 2 hr and then in an ice-bath for 1 hr. The resulting yellow slurry was filtered with suction and the solid dried under high vacuum giving 13.9 g (61.5%) of the title dione. Recrystallization of a sample of this material from ethyl acetate gave yellow solid, mp 115.5°-118° C.

reactant | 1,3-cyclohexanedione | 0.1 mol, 11.2 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
reactant | trans-cinnamaldehyde | 0.103 mol, 13 mL | C(\C=C\C1=CC=CC=C1)=O | C9H8O
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 2-(3-Phenylpropenylidene)-1,3-cyclohexanedione | C1(=CC=CC=C1)C=CC=C1C(CCCC1=O)=O | C15H14O2
